US05166198
b) Diethyl 3,4-dihydroxybutylphosphonate
To a solution of diethyl but-3-enylphosphonate (10.2 g, 0.053 mol) in acetone (200 ml) and water (40 ml), was added a trace of osmium tetroxide (1 mg). After stirring for 10 minutes at ambient temperature, 4-methylmorpholine-N-oxide (10.75 g, 0.079 mol) was added in one portion. Stirring was continued overnight under an atmosphere of nitrogen. The solution was concentrated under reduced pressure, and final traces of water removed by azeotroping with benzene and ethanol. The residual brown oil was chromatographed on silica gel (dichloromethane-methanol, 95:5 as eluant) to give the title compound as an oil (8.5 g, 71%). IR: υmax (film), 3400, 3000, 2940, 2880, 1450, 1400, 1230, 1170, 1070, 1030, 970, 820, 790 cm-1. 1H NMR: δH ((CD3)2SO) 1.25 (6H, t, J=8Hz, (OCH2CH3)2), 1.3-2.05 (4H, m, CH2CH2P), 3.1-3.5 (3H, m, HOCH2CH(OH)), 4.0 (4H, m, (OCH2CH3)2), 4.6 (2H, m, D2O exchangeable, HOCH2CH(OH)). Found: C, 42.57; H, 8.56%. C8H19O5P requires: C, 42.47; H, 8.46%. m/z:C8H20O5P requires 227.1048; observed: 227.1045 (MH+).

reactant | diethyl but-3-enylphosphonate | 0.053 mol, 10.2 g | C(CC=C)P(OCC)(OCC)=O | C8H17O3P
reactant | 4-methylmorpholine-N-oxide | 0.079 mol, 10.75 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | acetone | 200 ml | CC(=O)C | C3H6O
solvent | water | 40 ml | O | H2O
catalyst | osmium tetroxide | 1 mg | [Os](=O)(=O)(=O)=O
product | Diethyl 3,4-dihydroxybutylphosphonate | 8.5 g, 71% | OC(CCP(OCC)(OCC)=O)CO | C8H19O5P
